US08283378B2
3.37 g (28 mmol) of bromoacetonitrile and 640 mg (2.8 mmol) of benzyltriethylammonium chloride are added to a solution of 5 g (28 mmol) of sodium 4-methyl-benzenesulfinate in 50 ml of toluene and 50 ml of dimethylformamide. The reaction mixture is stirred at room temperature for 24 h. The heterogeneous mixture is filtered. The filtrate is evaporated and then purified on silica gel (heptane then heptane/ethyl acetate, 60/40 v/v). The product is triturated in heptane then filtered and dried. 2.95 g of (toluene-4-sulfonyl)-acetonitrile is obtained in the form of a pale yellow powder. (Yield=54%).

reactant | bromoacetonitrile | 28 mmol, 3.37 g | BrCC#N | C2H2BrN
reactant | sodium 4-methyl-benzenesulfinate | 28 mmol, 5 g | CC1=CC=C(C=C1)S(=O)[O-].[Na+]
catalyst | benzyltriethylammonium chloride | 2.8 mmol, 640 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (toluene-4-sulfonyl)-acetonitrile | 2.95 g, Yield=54% | C1(=CC=C(C=C1)S(=O)(=O)CC#N)C | C9H9NO2S
